US07825128B2
6) N-[2-(2-chloro-5-iodopyrimidine-4-ylamino)ethyl]acetamide
In the reaction of 2,4-dichloro-5-iodopyrimidine (1.0 g, 3.6 mmol) with N-(2-aminoethyl)acetamide (e. g. ABCR, Aldrich) (0.42 mL, 3.9 mmol) according to procedure 2, the desired product is obtained in 71% yield (878 mg) after trituration of the crystals obtained with diethyl ether.

reactant | 2,4-dichloro-5-iodopyrimidine | 3.6 mmol, 1.0 g | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | N-(2-aminoethyl)acetamide | 3.9 mmol, 0.42 mL | NCCNC(C)=O | C4H10N2O
product | N-[2-(2-chloro-5-iodopyrimidine-4-ylamino)ethyl]acetamide | 71% yield | ClC1=NC=C(C(=N1)NCCNC(C)=O)I | C8H10ClIN4O
